Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfonamides / Morphine / Bacitracin
 
Attending: ___.
 
Chief Complaint:
Failure to thrive.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
This is an ___ y/o WF with a history of dementia, HTN, diet 
controlled DM who presents with several day history of poor PO 
intake and abdominal discomfort as per ED. Unreliable historian 
with shifting story. Reports ___ day hx of nonproductive cough, 
nasal congestion. No fevers, chills, SOB, pleuritic chest pain. 
The son, who is actively involved with her care and prepares all 
her meals, noticed that she has not been eating much for ___ 
days. Pt reports that her appetite is low but that she had been 
drinking enough fluids. Upon reaching the floor, denies any 
abdominal pain, which she had reported in the ED. No nausea, 
vomiting, diarrhea, constipation, shortness of breath. Energy 
level at baseline. Unclear if pt has lost any significant 
weight.
.
In the ED, initial vs were 100.8 (rectal), 68, 129/48, 14, 
94%RA. Intiial lab workup was negative, CE x1 also negative. 
Patient was given 1L NS and KCl 20mEq x 1. UA was sent and 
showed few bacteria, ___ WBC, and negative nitrites. CXR showed 
no acute cardiopulmonary process. CT Abd/Pelvis was negative for 
any intra-abd pathology. On transfer VS are 98.4, 70, 145/54, 
14, 96%RA.
.
On the floor, patient reports that she feels well. Reports mild 
cough, improving. No abdominal pain. Is thirsty but wishes to go 
home.
.
Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
1. Depression
2. Dementia, ___ microvascular disease
3. Osteoporosis
4. diet controlled DM
5. HTN
6. Hypercholesterolemia
7. Asthma
8. s/p right total hip replacement
9. peripheral neuropathy
10. h/o syncope (___)
11. lung nodule
12. colon polyp, hyperplastic
13. macular degeneration, glaucoma
14. GERD
15. ? fibromyalgia
16. Diverticulosis 
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
Vitals: T: 98.4, BP: 153/71, P: 70, R: 18, O2: 96% RA
General: Alert, oriented, no acute distress, very pleasant.
HEENT: NC AT, sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Bibasilar rales
CV: Regular rate and rhythm, S2 audible, holosystolic murmur at 
LUSB
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: foley in place
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: with resting tremor in bilaterally hands. Alert and 
oriented to person, place, and year. Unable to spell world 
backwards. 
 
Pertinent Results:
Laboratory Data:
___ 10:13AM BLOOD WBC-6.9 RBC-4.42 Hgb-12.4 Hct-37.2 MCV-84 
MCH-28.1 MCHC-33.4 RDW-13.9 Plt ___
___ 06:10AM BLOOD WBC-5.2 RBC-4.13* Hgb-12.2 Hct-35.9* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-14.2 Plt ___
___ 06:55AM BLOOD WBC-6.1 RBC-4.36 Hgb-12.9 Hct-37.7 MCV-87 
MCH-29.7 MCHC-34.3 RDW-14.0 Plt ___
___ 10:13AM BLOOD Neuts-76.1* Lymphs-11.6* Monos-11.2* 
Eos-0.5 Baso-0.6
.
Complete Metabolic Profile:
___ 10:13AM BLOOD Glucose-103* UreaN-14 Creat-0.7 Na-137 
K-3.1* Cl-98 HCO3-29 AnGap-13
___ 06:10AM BLOOD Glucose-85 UreaN-8 Creat-0.6 Na-142 
K-3.2* Cl-106 HCO3-27 AnGap-12
___ 06:55AM BLOOD Glucose-92 UreaN-6 Creat-0.6 Na-140 K-3.4 
Cl-101 HCO3-28 AnGap-14
___ 10:13AM BLOOD Calcium-9.3 Phos-2.7 Mg-1.9
___ 06:10AM BLOOD Calcium-8.2* Phos-2.6* Mg-1.8
___ 06:55AM BLOOD Calcium-8.6 Phos-2.3* Mg-1.7
.
Liver Enzymes:
___ 10:13AM BLOOD ALT-11 AST-23 AlkPhos-78
.
Cardiac Biomarkers:
___ 06:55AM BLOOD CK(CPK)-88
___ 06:55AM BLOOD CK-MB-NotDone cTropnT-<0.01
.
___ 10:20AM BLOOD Lactate-1.6
.
Urine:
___ 10:45AM URINE Color-Yellow Appear-Clear Sp ___
___ 10:45AM URINE Blood-TR Nitrite-NEG Protein-25 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 10:45AM URINE ___ Bacteri-FEW Yeast-NONE 
___
.
Urine Culture (___): No growth.
Blood Culture (___): No growth to date.
.
ECG (___): Sinus rhythm. Consider left atrial abnormality. 
Left ventricular hypertrophy. Intraventricular conduction delay 
with left axis deviation is probably left anterior fascicular 
block. Delayed R wave progression with late precordial QRS 
transition is non-specific. Diffuse ST-T wave abnormalities may 
be due myocardial ischemia, possibly intraventricular conduction 
delay and/or left ventricular hypertrophy. Since the previous 
tracing of ___ there is no significant change.
.
CXR (___): IMPRESSION: No acute cardiopulmonary pathology. 
Specifically, no evidence of
pneumonia.
.
CT Abdomen/Pelvis with Contrast (___): 
IMPRESSION:
1. No acute intra-abdominal pathology to explain clinical 
presentation.
2. Sigmoid diverticulosis without diverticulitis.
3. Extensive atherosclerotic vascular disease.
.
L-spine (___): 
Four views of the lumbar spine demonstrate severe osteopenia. 
There is a 
large degree of bowel gas projecting over the lumbar spine which 
limits fine osseous detail and interpretation. Lumbar vertebral 
bodies appear to be grossly intact. There is mild grade 1 
anterolisthesis of L4 on 5. There is vacuum phenomenon at L5-S1 
with endplate sclerosis. There is facet 
arthropathy at all levels. Aortic calcification is present. 
There is a total right hip prosthesis. There are mild 
degenerative changes of the sacroiliac joints. 
.
Head CT (___): IMPRESSION: No hemorrhage, edema, or change 
since prior.
.
CT C-Spine (___): 
1. There is no evidence of acute fractures or other acute 
process of the 
cervical spine. 
2. Multilevel degenerative changes, most severe at the level of 
C6/C7 with 
anterior and posterior spondylosis, severe degenerative disc 
changes with 
subchondral sclerosis and disc space narrowing, facet and 
uncovertebral joint osteophytes causing moderate narrowing of 
the neural foramina and spinal canal bilaterally. 
3. Grade 1 anterolisthesis of C4 on C5. 

 
Brief Hospital Course:
___ y/o WF with a history of Dementia, HTN, diet controlled DM 
who presents with several day history of poor PO intake in the 
setting of nonproductive cough.

# Failure to thrive: Poor PO intake likely secondary to 
resolving viral upper respiratory infection, given low grade 
fever in the ED and complaints of nonproductive cough.  Chest 
radiograph clear.  Patient also found to have a urinary tract 
infection which was treated with a three day course of PO 
ciprofloxacin.  Mild subjective abdominal pain was reported in 
the ED but resolved upon reaching the floor.  ___ be secondary 
to UTI, as CT abdomen and pelvis was without acute 
intraabdominal pathology.  EKG consistent with prior and first 
set cardiac biomarkers was negative.  Patient was given IV 
fluids and tolerated PO intake by the time of discharge.  Home 
fludrocortisone was continued.  Physical therapy consulted and 
recommended ___ care or rehabilitation center.  Patient refused 
rehab and after discussions with her family was sent home to 
receive 24 hour care. 

# Fall: Patient status post fall while in the hospital.  CT head 
and c spine without acute pathology.  As above, was seen by 
physical therapy who recommended 24 hour care or rehabilitation 
center.  

# Abdominal pain: Mild subjective abdominal pain was reported in 
the ED but resolved upon reaching the floor with benign 
abdominal exam.  ___ be secondary to UTI, as CT abdomen and 
pelvis was without acute intraabdominal pathology.  No 
leukocytosis, LFTs WNL, lactate WNL to suggest abdominal 
process.

# UTI: Treated with cipro as above.  

# Hypertension: Blood pressures were found to be elevated in 
house.  Was started on lisinopril for improved blood pressure 
control.  Will need outpatient follow up.

# Dementia: Secondary to macrovascular disease. Stable, 
continued home donepezil and modafanil.

# DM: Diet controlled at home, with sugars controlled in house.  


# Hypercholesterolemia: Continued home lipitor.

# Depression: Stable, continued home bupropion and sertraline.

# Asthma: Continued home advair.
 
Medications on Admission:
- lipitor 20mg PO daily
- buproprion 75mg PO daily
- donepezil 10mg PO daily
- fludrocortisone 0.1mg PO daily
- advair 500/50 1 puff BID
- latanoprost eye drop
- modafanil 100mg PO daily
- sertraline 25mg PO qAM
- calcium carbonate 600-200-25 PO daily
- tylenol ___ PRN insomnia 
 
Discharge Medications:
1. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO three 
times a day.  
5. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Modafinil 100 mg Tablet Sig: One (1) Tablet PO Daily ().  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. Potassium Chloride 10 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO three times a day.  
9. Sertraline 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
10. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Urinary tract infection
Dehydration
Hypertension

Secondary:
Dementia
Diabetes mellitus

 
Discharge Condition:
Mental Status: Confused - sometimes
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital for a slight fever and 
dehydration after an upper respiratory viral infection. You were 
found to have a urinary tract infection and improved with IV 
fluids and antibiotics. You fell overnight in the hospital after 
standing up and trying to walk but did not fracture any bones or 
have bleeding. You should continue to work with your physical 
therapist at home and need 24 hour care to prevent falls as you 
are at a high risk for falling.  Please follow-up with your PCP 
___.

The following changes were made to your medications:
1. Started lisinopril, a medication to improve your blood 
pressure.
 
Followup Instructions:
___